US08242104B2
Isopropylmagnesium chloride in tetrahydrofuran (2.0 M, 3.311 mL) was added dropwise to a solution of 10-chloro-2,3-diiodo-5,6-dihydroimidazo[1,2-d]pyrido[4,3-f][1,4]oxazepine (2.850 g, 6.020 mmol) in 110 ml of tetrahydrofuran at −10° C. The mixture was allowed to warm to 10° C. in 45 min and then mixed with 250 ml of cold 10% NH4Cl. The organic layer was washed with brine and dried over Na2SO4. Concentration in vacuum afforded 2.06 g of 10-chloro-2-iodo-5,6-dihydroimidazo[1,2-d]pyrido[4,3-f][1,4]oxazepine (98.5%). MS: 348.0. 1H NMR (500 MHz, CDCl3) δ 8.33 (d, J=10.1, 1H), 8.18 (s, 1H), 7.18 (s, 1H), 4.46 (q, J=5.8, 4H).

reactant | Isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | 10-chloro-2,3-diiodo-5,6-dihydroimidazo[1,2-d]pyrido[4,3-f][1,4]oxazepine | 6.020 mmol, 2.850 g | ClC1=CC=2C=3N(CCOC2C=N1)C(=C(N3)I)I | C10H6ClI2N3O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 2.0 M, 3.311 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
product | 10-chloro-2-iodo-5,6-dihydroimidazo[1,2-d]pyrido[4,3-f][1,4]oxazepine | 2.06 g, 98.5% | ClC1=CC=2C=3N(CCOC2C=N1)C=C(N3)I | C10H7ClIN3O
